US06458802B1
[7-Nitro-6-fluoro-2,3-dihydro-1,4-benzodioxin-2y]methyl 4-Methylbenzenesulfonate
To a solution of 19.0 g (56.2 mmole) of {(2R)-6-fluoro-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate in 200 mL of 1,2-dichloro-ethane in an ice/water bath was added dropwise a solution of 8.35 mL (0.197 mole) of fuming nitric acid (d 1.49) and the mixture was stirred for 2 hours at 0° C. After the reaction was complete, it was quenched with ice and diluted with 500 mL of methylene chloride. After the ice had melted, the organic layer was separated and washed with equal volumes of saturated aqueous sodium bicarbonate and saturated brine, dried over magnesium sulfate, filtered and concentrated in vacuum to a crude yellow solid. This was column chromatographed on silica gel with 1:1 hexane/methylene chloride as eluant to give 18.6 g of the (R)-enantiomer of the title compound as a light yellow solid (m.p. 106-107° C.).

reactant | {(2R)-6-fluoro-2,3-dihydro-1,4-benzodioxin-2-yl}methyl 4-methylbenzenesulfonate | 56.2 mmole, 19.0 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C=CC(=C2)F | C16H15FO5S
reactant | nitric acid | 0.197 mole, 8.35 mL | [N+](=O)(O)[O-] | HNO3
solvent | 1,2-dichloro-ethane | 200 mL | ClCCCl | C2H4Cl2
product | [7-Nitro-6-fluoro-2,3-dihydro-1,4-benzodioxin-2y]methyl 4-Methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC2=C(O1)C=C(C(=C2)F)[N+](=O)[O-] | C16H14FNO7S
